US05098919
4-Nitrophenyl (7-Isopropoxycarbonyl-6-methyl-2,3,5,6-tetrahydropyrrolo[2,1-b]thiazol-3-ylidene)acetate
8.9 g of isopropyl 4-methyl-2-thioxopyrrolidine-3-carboxylate was dissolved in 200 ml of benzene and 5.1 g of anhydrous sodium acetate and 16.7 g of 4-nitrophenyl 4-bromoacetoacetate were added thereto. The obtained mixture was stirred at room temperature for 8 hours. Then 500 ml of chloroform was added and the mixture was washed with water and a saturated aqueous solution of sodium chloride. After drying and distilling off the solvent, the obtained residue was purified by silica gel column chromatography. A fraction eluted with dichloromethane was crystallized from a mixture of ether and n-hexane. Thus 11.9 g of the title compound was obtained.

reactant | isopropyl 4-methyl-2-thioxopyrrolidine-3-carboxylate | 8.9 g | CC1C(C(NC1)=S)C(=O)OC(C)C | C9H15NO2S
reactant | sodium acetate | 5.1 g | C(C)(=O)[O-].[Na+]
reactant | 4-nitrophenyl 4-bromoacetoacetate | 16.7 g | BrCC(CC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H8BrNO5
reactant | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 4-Nitrophenyl (7-Isopropoxycarbonyl-6-methyl-2,3,5,6-tetrahydropyrrolo[2,1-b]thiazol-3-ylidene)acetate | 11.9 g | C(C)(C)OC(=O)C=1C(CN2C1SCC2=CC(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C | C19H20N2O6S
